US06180635B2
5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
5-[(3-Azidopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (656 mg), 1,3-propanedithiol (100 μl) and triethylamine (400 μl) were dissolved in a mixture of dichloromethane (3 ml) and isopropanol (5 ml). Sodium borohydride (78 mg) was added and the mixture was stirred overnight. The solvents were removed by evaporation then dilute hydrochloric acid was added dropwise until effervescence ceased. The solution was made alkaline with aqueous sodium hydroxide and then extracted with dichloromethane (four times). The extracts were dried, filtered and evaporated. Purification by HPLC (ethanol:dichloromethane 5-40: 95-60) followed by trituration with ether-cyclohexane gave the title compound (280 mg).

reactant | 5-[(3-Azidopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 656 mg | N(=[N+]=[N-])CCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H27N5O2S2
reactant | 1,3-propanedithiol | 100 μl | C(CCS)S | C3H8S2
reactant | triethylamine | 400 μl | C(C)N(CC)CC | C6H15N
reactant | Sodium borohydride | 78 mg | [BH4-].[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 280 mg | NCCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O2S2
